US07732604B2
To a solution of [4-(3-quinolin-6-ylmethyl-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)-pyrazol-1-yl]-acetic acid methyl ester (242 mgs, 0.60 mmol) in MeOH (4 mL) was added a freshly prepared solution of LiOH (72 mgs, 3.02 mmol) in water (1 mL). The reaction was stirred for 16 hours at ambient temperature. The white suspension was then neutralized to pH 7 with 1 N HCl, and a white solid precipitated out. The solid was filtered, washed with water, and dried under a high vacuum for 16 hours to afford [4-(3-quinolin-6-ylmethyl-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)-pyrazol-1-yl]-acetic acid (131 mgs, 56% yield).

reactant | [4-(3-quinolin-6-ylmethyl-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)-pyrazol-1-yl]-acetic acid methyl ester | 0.60 mmol, 242 mgs | COC(CN1N=CC(=C1)C=1N=C2C(=NC1)N=NN2CC=2C=C1C=CC=NC1=CC2)=O | C20H16N8O2
reactant | LiOH | 3.02 mmol, 72 mgs | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | MeOH | 4 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | [4-(3-quinolin-6-ylmethyl-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)-pyrazol-1-yl]-acetic acid | 131 mgs, 56% yield | N1=CC=CC2=CC(=CC=C12)CN1N=NC2=NC=C(N=C21)C=2C=NN(C2)CC(=O)O | C19H14N8O2
